US04788206
As in Example 134, a solution of (E)-5,5-bis(3-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester (3.0 g) and 3-pyridinehexanamine (1.25 g) in tetrahydrofuran (20 mL) was stirred for 1.5 hours at room temperature and was then worked up in the usual manner. The product was purified by HPLC (ethyl acetate) and triturated with ether to give 2.5 g of (E)-5,5-bis(3-methoxyphenyl)-N-[6-(3-pyridinyl)hexyl]-2,4-pentadienamide mp 66°-70° C. Crystallization of a portion from ethyl acetate-hexane afforded of the pure amide, mp 71°-72° C.

reactant | (E)-5,5-bis(3-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 3.0 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC(=CC=C1)OC)C1=CC(=CC=C1)OC)=O | C25H21NO6
reactant | 3-pyridinehexanamine | 1.25 g | N1=CC(=CC=C1)CCCCCCN | C11H18N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (E)-5,5-bis(3-methoxyphenyl)-N-[6-(3-pyridinyl)hexyl]-2,4-pentadienamide | 2.5 g | COC=1C=C(C=CC1)C(=C/C=C/C(=O)NCCCCCCC=1C=NC=CC1)C1=CC(=CC=C1)OC | C30H34N2O3
